US05519016
In 96 ml of N,N-dimethylformamide was dissolved 3.0 g (0.01 mole) of ethyl 7-fluoro-8-difluoromethoxy-4-hydroxyquinoline-3-carboxylate obtained as described above, and 6.9 g (0.05 mole) of potassium carbonate and 12.5 g (0.08 mole) of ethyl iodide were added thereto. The mixture was stirred at 100° C. for 14 hours. After completion of the reaction, the solvent was removed under reduced pressure, and water was added to the residue. Crystals precipitated were collected by filtration and applied to silica gel column chromatography (the eluent used was a mixture of chloroform: methanol = 95 : 5) to obtain 1.1 g of ethyl 1-ethyl-7-fluoro-8-difluoromethoxy-1.4-dihydro-4-oxoquinoline-3-carboxylate as white crystals.

reactant | ethyl 7-fluoro-8-difluoromethoxy-4-hydroxyquinoline-3-carboxylate | 0.01 mole, 3.0 g | FC1=CC=C2C(=C(C=NC2=C1OC(F)F)C(=O)OCC)O | C13H10F3NO4
reactant | potassium carbonate | 0.05 mole, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.08 mole, 12.5 g | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 96 ml | CN(C=O)C | C3H7NO
product | ethyl 1-ethyl-7-fluoro-8-difluoromethoxy-1.4-dihydro-4-oxoquinoline-3-carboxylate | 1.1 g | C(C)N1C=C(C(C2=CC=C(C(=C12)OC(F)F)F)=O)C(=O)OCC | C15H14F3NO4
